Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10].[H:1][O:2],6.43986266255
[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.62624248752
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10],7.618136165389999
[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:11][H:12].[H:1][C:2]=[C:9]([H:10])[H:13]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-5.52013751604
[H:10].[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],-2.9421820024
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-1.7026851259600002
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.85443653995
[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.4274769347800005
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:6]=[C:7]([H:8])[H:9].[H:1][C:2][O:3][C:4][H:5],6.67748782216
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][H:8],3.49727159762
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-0.741980831749
[H:1][O:2][C:3]([H:4])=[C:5]1[C:6]([H:7])[O:8][C:9]1[H:10]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9][H:10],0.873305976878
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[C:7](=[O:8])[H:9],5.887451019229999
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:8],1.76645479368
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-1.9256687041
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.1313875689699975
[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-3.87232564235
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]#[C:7][H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],1.97312579002
[C:1]/[C:2]([H:3])=[C:4](\[H:5])[O:6][C:7]#[C:8]>>[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7]#[C:8],4.2349408015900005
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:7]([H:8])=[C:11]/[C:12]([H:13])([H:14])[H:15].[H:6][C:9][H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11][C:12]([H:13])([H:14])[H:15],-2.71338957335
[C:3]([H:4])=[C:5]([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12],-8.20144259796
[C:1][C:2]([H:3])([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[O:6]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7][C:8]([H:9])([H:10])[H:11],-2.86614275285
[H:8].[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]#[C:9][H:10]>>[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])=[C:9][H:10],-1.8827441542200003
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7],4.93897395934
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.569586155440001
[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],-3.26080953557
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],3.4356861647500003
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[H:13].[H:9],4.7485906827800015
